US08227481B2
2-(4-Bromo-2-methyl-phenyl)-1-oxo-2,8-diaza-spiro[4.5]decane-8-carboxylic acid tert-butyl ester
To a clear solution of 4-[2-(4-Bromo-2-methyl-phenylamino)-ethyl]-piperidine-1,4-dicarboxylic acid 1-tert-butyl ester 4-ethyl ester (3.42 mmol) in THF (40 mL) was added a solution of potassium t-butoxide (1M in THF) 1 mL (1 mmol, 0.3 equiv.) at r.t. (water bath at rt). The clear solution turned a little bit cloudy. After 30 min, TLC (5% MeOH in DCM) showed the reaction is complete (spot to spot), LC/MS detected the product peak of 423/425 (t 3.267 min). The reaction was cooled in an ice-water bath, diluted with 100 mL of DCM, quenched with 20 mL of water. The two layers were separated. The aqueous layer was extracted with DCM (2×20 mL). The combined DCM extracts were washed with brine, and concentrated on rotavap to yield 0.90 g (63% yield) of the title compound as a white solid.

reactant | 4-[2-(4-Bromo-2-methyl-phenylamino)-ethyl]-piperidine-1,4-dicarboxylic acid 1-tert-butyl ester 4-ethyl ester | 3.42 mmol | C(C)OC(=O)C1(CCN(CC1)C(=O)OC(C)(C)C)CCNC1=C(C=C(C=C1)Br)C | C22H33BrN2O4
reactant | potassium t-butoxide | 1 mmol, 1M, 1 mL, 0.3 equiv. | CC(C)([O-])C.[K+]
reactant | water | O | H2O
reactant | MeOH | CO | CH4O
solvent | THF | 40 mL | C1CCOC1 | C4H8O
solvent | DCM | C(Cl)Cl | CH2Cl2
solvent | DCM | 100 mL | C(Cl)Cl | CH2Cl2
product | 2-(4-Bromo-2-methyl-phenyl)-1-oxo-2,8-diaza-spiro[4.5]decane-8-carboxylic acid tert-butyl ester | 0.90 g, 63% yield | C(C)(C)(C)OC(=O)N1CCC2(CCN(C2=O)C2=C(C=C(C=C2)Br)C)CC1 | C20H27BrN2O3
